US06974822B2
Step (1): 4-(7-bromo-3-oxo-2H-8-azaisoquinolin-2-ylmethyl)benzoic acid methyl ester
The alkylation of 7-bromo-3-hydroxy-8-azaisoquinoline (1.00 g, 4.46 mmol) using methyl 4-(bromomethyl)benzoate (1.53 g, 6.69 mmol) and cesium carbonate (2.18 g, 6.69 mmol) in dimethylformamide is carried out as previously described in Example 1, Step (1). The solid is crystallized from hexanes/ethyl acetate 2:1, the white crystals collected by filtration and dried to give the desired product.

reactant | 7-bromo-3-hydroxy-8-azaisoquinoline | 4.46 mmol, 1.00 g | BrC1=CC=C2C=C(N=CC2=N1)O | C8H5BrN2O
reactant | methyl 4-(bromomethyl)benzoate | 6.69 mmol, 1.53 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | cesium carbonate | 6.69 mmol, 2.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(7-bromo-3-oxo-2H-8-azaisoquinolin-2-ylmethyl)benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN1C=C2N=C(C=CC2=CC1=O)Br)=O | C17H13BrN2O3
